US09289430B2
N1-methyl-N1-(2-morpholinoethyl)-N3-(4-(piperidin-1-yl)-2-((4-(3-(trifluoromethyl)phenyl)thiazol-2-yl)carbamoyl)phenyl)isophthalamide
Into a 50-mL round bottom flask, was placed a solution of 2-amino-5-(piperidin-1-yl)-N-(4-(3-(trifluoromethyl)phenyl)thiazol-2-yl)benzamide (287 mg, 0.64 mmol, 1.00 equiv) in dichloromethane (3 mL), and pyridine (406 mg, 5.13 mmol, 8.00 equiv). This was followed by dropwise addition of a solution of 3-(methyl(2-morpholinoethyl)carbamoyl)benzoyl chloride (300 mg, 0.97 mmol, 1.50 equiv) in dichloromethane (2 mL) with stirring. The resulting solution was stirred for 1 h at room temperature, then diluted with 50 mL of ethyl acetate. The resulting mixture was washed with 1×20 mL of hydrogen chloride (1 N) and 2×20 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (300 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 120 mg (20%) of as a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 12.89(s, 1H), 10.93(s, 1H), 9.79(s, 1H), 8.26 (m, 2H), 8.00(m, 4H), 7.69(m, 4H), 7.53(s, 1H), 7.27(d, J=8.7 Hz, 1H), 4.01(s, 2H), 3.85(s, 2H), 3.63(s, 4H), 3.44(s, 2H), 3.17(m, 6H), 2.99(s, 3H), 1.70(m, 6H). MS (ES, m/z): 721 [M+H]+.

reactant | 2-amino-5-(piperidin-1-yl)-N-(4-(3-(trifluoromethyl)phenyl)thiazol-2-yl)benzamide | 0.64 mmol, 287 mg, 1.00 equiv | NC1=C(C(=O)NC=2SC=C(N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C22H21F3N4OS
reactant | pyridine | 5.13 mmol, 406 mg, 8.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoyl chloride | 0.97 mmol, 300 mg, 1.50 equiv | CN(C(=O)C=1C=C(C(=O)Cl)C=CC1)CCN1CCOCC1 | C15H19ClN2O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N1-methyl-N1-(2-morpholinoethyl)-N3-(4-(piperidin-1-yl)-2-((4-(3-(trifluoromethyl)phenyl)thiazol-2-yl)carbamoyl)phenyl)isophthalamide | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C(NC=2SC=C(N2)C2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCOCC1 | C37H39F3N6O4S
